US06818640B1
To a solution of 2-methoxyphenethylamine (1.98 g) in diethylether (20 ml) was added dropwise under ice-cooling thiophosgene (1.54 g). The mixture was stirred at room temperature for 1 hour. To the solution was added water (30 ml). The mixture was extracted with diethylether (60 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give (2-methoxyphenethyl)isothiocyanate (1.80 g, yield: 71%) as brown oil.

reactant | 2-methoxyphenethylamine | 1.98 g | COC1=C(CCN)C=CC=C1 | C9H13NO
reactant | thiophosgene | 1.54 g | C(=S)(Cl)Cl | CCl2S
reactant | water | 30 ml | O | H2O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
product | (2-methoxyphenethyl)isothiocyanate | 1.80 g, yield: 71% | COC1=C(CCN=C=S)C=CC=C1 | C10H11NOS
